Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[cH:15][cH:16]1.[CH3:17][c:18]1[c:19]([CH3:20])[c:21]([S:22](=[O:23])(=[O:24])[NH:25][C:26](=[NH:27])[NH:28][CH2:29][CH2:30][CH2:31][C@H:32]([NH2:33])[C:34](=[O:35])[O:36][C:37]([CH3:38])([CH3:39])[CH3:40])[c:41]([CH3:42])[c:43]2[c:44]1[O:45][C:46]([CH3:47])([CH3:48])[CH2:49][CH2:50]2>>[C:1](=[O:2])([c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[cH:15][cH:16]1)[NH:33][C@@H:32]([CH2:31][CH2:30][CH2:29][NH:28][C:26]([NH:25][S:22]([c:21]1[c:19]([CH3:20])[c:18]([CH3:17])[c:44]2[c:43]([c:41]1[CH3:42])[CH2:50][CH2:49][C:46]([CH3:47])([CH3:48])[O:45]2)(=[O:23])=[O:24])=[NH:27])[C:34](=[O:35])[O:36][C:37]([CH3:38])([CH3:39])[CH3:40],[CH3:17][c:18]1[c:19]([CH3:20])[c:21]([S:22](=[O:23])(=[O:24])[NH:25][C:26](=[NH:27])[NH:28][CH2:29][CH2:30][CH2:31][C@H:32]([NH2:33])[C:34](=[O:35])[O:36][C:37]([CH3:38])([CH3:39])[CH3:40])[c:41]([CH3:42])[c:43]2[c:44]1[O:45][C:46]([CH3:47])([CH3:48])[CH2:49][CH2:50]2.[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[cH:15][cH:16]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5](=[O:6])[n:7]([CH2:8][c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)[cH:15][cH:16]1)[NH:33][C@@H:32]([CH2:31][CH2:30][CH2:29][NH:28][C:26]([NH:25][S:22]([c:21]1[c:19]([CH3:20])[c:18]([CH3:17])[c:44]2[c:43]([c:41]1[CH3:42])[CH2:50][CH2:49][C:46]([CH3:47])([CH3:48])[O:45]2)(=[O:23])=[O:24])=[NH:27])[C:34](=[O:35])[O:36][C:37]([CH3:38])([CH3:39])[CH3:40],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (33, 1), ([1, 2], 2), (303, 33.1), ([33.1, 33], 33), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](/[CH:2]=[CH:3]/[c:4]1[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]1)=[O:12].[CH3:13][N:14]([CH3:15])[CH:16]1[CH2:17][CH2:18][N:19]([c:20]2[n:21][c:22]3[cH:23][cH:24][c:25]([NH2:26])[cH:27][c:28]3[s:29]2)[CH2:30]1>>[C:1]([CH:2]=[CH:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]1)(=[O:12])[NH:26][c:25]1[cH:24][cH:23][c:22]2[n:21][c:20]([N:19]3[CH2:18][CH2:17][CH:16]([N:14]([CH3:13])[CH3:15])[CH2:30]3)[s:29][c:28]2[cH:27]1,[CH3:13][N:14]([CH3:15])[CH:16]1[CH2:17][CH2:18][N:19]([c:20]2[n:21][c:22]3[cH:23][cH:24][c:25]([NH2:26])[cH:27][c:28]3[s:29]2)[CH2:30]1.[OH:101][C:1](/[CH:2]=[CH:3]/[c:4]1[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]1)=[O:12].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]=[CH:3][c:4]1[cH:5][cH:6][c:7]([O:8][CH3:9])[cH:10][cH:11]1)(=[O:12])[NH:26][c:25]1[cH:24][cH:23][c:22]2[n:21][c:20]([N:19]3[CH2:18][CH2:17][CH:16]([N:14]([CH3:13])[CH3:15])[CH2:30]3)[s:29][c:28]2[cH:27]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (26, 1), ([1, 12], 12), (303, 26.1), ([26.1, 26], 26), (12, [12, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[CH2:1][CH2:2][O:3][CH:4]([CH3:5])[CH3:6].[NH2:7][C:8](=[O:9])[c:10]1[nH:11][cH:12][n:13][c:14]1[NH2:15]>>[CH2:1]([CH2:2][O:3][CH:4]([CH3:5])[CH3:6])[NH:15][c:14]1[c:10]([C:8]([NH2:7])=[O:9])[nH:11][cH:12][n:13]1,[NH2:7][C:8](=[O:9])[c:10]1[nH:11][cH:12][n:13][c:14]1[NH2:15].[OH:101][CH2:1][CH2:2][O:3][CH:4]([CH3:5])[CH3:6].[O:301]=[S:302]([Cl:303])(=O)c1ccc(cc1)C>>[CH2:1]([CH2:2][O:3][CH:4]([CH3:5])[CH3:6])[NH:15][c:14]1[c:10]([C:8]([NH2:7])=[O:9])[nH:11][cH:12][n:13]1,SN2_with_tosylate,"[(101, 302), ([302, 301], 301), (301, [301, 302]), ([302, 303], 303), (303, 101.1), ([101.1, 101], 101), (15, 1), ([1, 101], 101), (101, 15.1), ([15.1, 15], 15)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
